US07265138B2
{2-[(2,6-Dichlorophenyl)amino]-5-bromo(1,3-thiazol-4-yl)}-N-[4-(trifluoromethyl)phenyl]carboxamide.
To a 50-mL flask was added {2-[(2,6-dichlorophenyl)amino](1,3-thiazol-4-yl)}-N-[4-(trifluoromethyl)phenyl]-carboxamide, Example 63, (100 mg, 0.23 mmol), acetic acid (2.0 mL), and bromine (0.03 mL, 0.46 mmol, Aldrich). The reaction mixture was stirred at room temperature overnight, then concentrated in vacuo. The crude product was diluted with CH2Cl2 (50 mL), washed with satd NaHCO3 (2×), 1 M Na2S2O3 and brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification by silica gel chromatography (12% EtOAc in hexane) provided the title product as an off-white solid. MS (ESI, pos. ion) m/z: 512 (M+1). MP: 151-162° C.

reactant | {2-[(2,6-dichlorophenyl)amino](1,3-thiazol-4-yl)}-N-[4-(trifluoromethyl)phenyl]-carboxamide | ClC1=C(C(=CC=C1)Cl)NC=1SC=C(N1)C(=O)NC1=CC=C(C=C1)C(F)(F)F | C17H10Cl2F3N3OS
reactant | acetic acid | 0.23 mmol, 2.0 mL, 100 mg | C(C)(=O)O | C2H4O2
reactant | bromine | 0.46 mmol, 0.03 mL | BrBr | Br2
product | {2-[(2,6-Dichlorophenyl)amino]-5-bromo(1,3-thiazol-4-yl)}-N-[4-(trifluoromethyl)phenyl]carboxamide | ClC1=C(C(=CC=C1)Cl)NC=1SC(=C(N1)C(=O)NC1=CC=C(C=C1)C(F)(F)F)Br | C17H9BrCl2F3N3OS
